datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][H:30],17.648112
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([C:23]([C:24]([H:34])([H:35])[H:36])[c:25]1[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]1[H:41])([H:31])([H:32])[H:33]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[C:23]([C:22]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[c:25]1[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]1[H:41])[H:13])([H:10])([H:11])[H:12],50.8356
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:21]([C:20]([H:24])([H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:12])([H:10])[H:11],10.5855
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][O:28]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])[H:13])([H:9])([H:10])[H:11].[H:12][O:27][O:28],199.11656
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[O:6][H:7]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][O:6][H:7],109.161
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([C:10]([S:11][H:17])([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:15])[H:5].[C:8](=[C:9]([C:10]([S:11][H:17])[H:16])[H:14])([H:12])[H:13],28.8696
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([C:7]([c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:7]([C:6]([H:14])([H:15])[H:16])([c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])[H:17],27.8654
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:6])[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18])([H:4])[H:5],48.7018
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:11](=[C:12]([H:14])[H:15])[H:13])[H:6])[H:5],0.08368
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6].[O:13][H:14]>>[C:0]([C:1](=[C:2]([C:3]([H:10])([H:11])[H:12])[H:9])[H:7])([H:4])([H:5])[H:6].[H:8][O:13][H:14],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:19])([H:20])[H:21])=[C:13]([C:14]([H:22])([H:23])[H:24])[C:15]([H:25])([H:26])[H:27])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:13]([C:11]([C:10](=[C:9]([H:16])[H:17])[H:18])[C:12]([H:19])([H:20])[H:21])([C:14]([H:22])([H:23])[H:24])[C:15]([H:25])([H:26])[H:27])[H:4],32.5097
[C:0]([C:1](=[O:2])[H:5])([H:3])[H:4].[O:6][O:7][H:8]>>[C:0]([C:1](=[O:2])[H:5])([H:3])([H:4])[H:8].[O:6][O:7],0.0
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([S:8][H:12])[H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:11])[H:3].[C:6](=[C:7][S:8][H:12])([H:9])[H:10],102.759
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](#[C:14][C:15]([H:17])[H:18])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14]#[C:13][H:16])([H:17])[H:18],27.6144
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:18]([C:17]([H:20])([H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:7],22.8028
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[H:11][O:20],8.811504
